Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
room spinning/dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old right handed lady with HLD, HTN who presented with
one week of episodic dizziness and nausea found to have L
extracranial ICA 9x9x6 mm ___ transferred to ___
neurosurgical evaluation. Neurology now consulted for dizziness
at request of neurosurgery.

Per patient she has been in her usual state of health recently
until one week ago. About one week ago she developed acute onset
room spinning sensation that lasted less than one minute and was
associated with nausea. She doesn't remember what she was doing
at this time but had no other symptoms. Throughout the week, she
had 2 more episodes -- both less than 1 minute, associated with
nausea and shaky vision. She does not know what she was doing
during one of the episodes, but with one of them she was moving
around it bed. She then had a very subtle episode yesterday when
she was getting her eyebrows waxed where she again felt slight
spinning sensation. She thinks that she was laying mostly flat
but there may have been slight neck extension. This lasted for
about 5 minutes while she was getting her eyebrows done and then
resolved. Then, last evening when she was in the shower, she
developed acute room spinning sensation that was so severe she
had to grab onto a railing and slowly lowered herself to her
knees. This did not occur in the setting of head turning or neck
extension. She had nausea and shaking vision as well. She denies
double vision, weakness, tingling, numbness or clumsiness. No 
ear
pain or pressure. She thinks the spinning sensation lasted about
2 minutes this time but what lingered was a subtle dizzy
sensation like she was off-balance for at least 20 minutes. She
was able to get up and walk to a chair though without having to
grab onto anything. She also describes an off-balance sensation
when getting up or walking which seems to go away after a few
seconds. This has been ongoing throughout the week.  

Given all these symptoms she went to ___ last night. CT/CTA was
done there showing a L extracranial ICA 9x9x6mm pseudoaneurysm.
She was transferred to ___ for neurosurgery evaluation.
Neurosurgery evaluated her and want to treat the pseudoaneurysm
medically and observe given non-occlusive and no thrombosed. 
They
recommended repeat CTA in 6 months and ongoing ASA 325 mg daily.
They also recommended neurology consult given dizziness. 

Of note, she does report a bioccipital headache for about one
week. It is dull and comes and goes. There is no throbbing
component. She thinks perhaps it is improved with lying down and
worsens if she is up for a while. She does not typically get
headaches.

She has had no trauma, falls, car accidents, new exercises or
workouts. She hasn't had any recent neck trauma. She has never
had an IV in her neck or a neck procedure. She went to a
___ in her ___ but not recently. She has had no
infectious symptoms, fevers, joint pain. 

She has had some aching in her legs as she has been trying to
sleep over the past week. This improves with moving her legs. 
Her
PCP stopped her statin due to the about 1 week ago. 

She also reports and rough rash on her left outer leg that is
patchy and has not increased. There have been no tick bites.
 
Past Medical History:
MILD GASTROPARESIS                                              
ANTRAL GASTRITIS                                                
STOMACH POLYP                                                   
ESOPHAGEAL STENOSIS                                             
HYPERCHOLESTEROLEMIA                                            
DEPRESSION                                                      
ANXIETY                                                         
HYPOTHYROIDISM                                                  
GASTROESOPHAGEAL REFLUX                                         
IRRITABLE BOWEL SYNDROME                                        
CYSTIC ACNE                                                     
VOMITING                                                        
LOW BACK PAIN                                                    


HYPERTENSION                                                    
DEVIATED SEPTUM                                                 
OBESITY                                                         
PERNICIOUS ANEMIA                                                
          
VITAMIN B12 DEFICIENCY          
 
Social History:
___
Family History:
No family history of blood vessel problems. No
history of strokes or blood clots. 
Dad - CABG at ___ years old, deceased from Lung CA
Mother - HLD, HTN
Aunt has MS
___ has RA.
 
Physical Exam:
UPON ADMISSION
PHYSICAL EXAMINATION: 

98.1 54 17 124/74 MAP: 90.7 96 Room Air

General: Awake, cooperative, obese
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: left thigh with superfical plaque-like rash

Neurologic:

-Mental Status: Alert, oriented x ___, ___.
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
PERRL 5 to 2mm and brisk. No RAPD. EOMI with right beating
nystagmus on right gaze and left beating nystagmus on left (more
pronounced on right). VFF to confrontation. No skew with 
uncover.
She does have corrective saccade with head thrust to left.
___ with rotary nystagmus to left with about 10 second
latency BUT does not fatigue on subsequent testing and lasts for
at least 90 seconds. Facial sensation intact to light touch.
facial droop, facial musculature symmetric. Hearing intact to
finger-rub bilaterally. Palate elevates symmetrically. ___
strength in trapezii bilaterally.
Tongue protrudes in midline with good excursions. Strength full
with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick,  vibration, or
throughout. Romberg with slight sway but no fall. 

-Reflexes:
  [Bic] [___] [Pat] [Ach]
L   2      1      2     0
R   2      1      2     0 

Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Cannot tandem. Unteberger with NO deviation to either
side. 

UPON DISCHARGE - 
PHYSICAL EXAMINATION: 

T 97.9 HR 55 RR 18 BP 130/69 Sat 95% Room Air

General: Awake, cooperative, obese
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: left thigh with superfical plaque-like rash

Neurologic:

-Mental Status: Alert, oriented x ___, ___.
Able to relate history without difficulty. Attentive, able to
spell WORLD backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
PERRL 4 to 3mm and brisk. No RAPD. EOMI with ___ beats of R gaze 
possible torsional and upbeat component and L gaze horizontal 
nystagmus a few beats. VFF to confrontation. No skew deviation.
She does have corrective saccade with head thrust to left.
___ positive to left side. Facial sensation intact to 
light touch.
facial droop, facial musculature symmetric. Hearing intact to
finger-rub bilaterally. Palate elevates symmetrically. ___
strength in trapezii bilaterally.
Tongue protrudes in midline with good excursions. Strength full
with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.

  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick,  vibration, or
throughout. Romberg with slight sway but no fall. 

-Reflexes:
  [Bic] [___] [Pat] [Ach]
L   2      1      2     0
R   2      1      2     0 

Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Heel to toe slightly difficulty with swaying but able to 
walk without assistance. 
 
Pertinent Results:
___ 06:35AM BLOOD Glucose-77 UreaN-5* Creat-0.8 Na-143 
K-3.4* Cl-107 HCO3-25 AnGap-11
___ 07:17PM BLOOD Glucose-77 UreaN-5* Creat-0.9 Na-142 
K-5.5* Cl-107 HCO3-20* AnGap-15
___ 07:17PM BLOOD ALT-16 AST-31 AlkPhos-84 TotBili-0.4
___ 06:35AM BLOOD Calcium-9.2 Phos-4.0 Mg-1.9
___ 07:17PM BLOOD Albumin-4.2 Calcium-9.1 Phos-4.0 Mg-2.0
___ 09:04PM BLOOD K-5.4

MRI BRAIN: 
-No evidence of demyelination or infarction.  No acute 
intracranial
abnormality is identified.
-Small extra-axial homogeneously enhancing mass (8 mm) overlying 
the medial aspect of the left frontal lobe anteriorly, likely 
representing a meningioma.
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with HLD, HTN, 
anxiety/depression who is admitted to the Neurology stroke 
service with episodes of dizziness/room spinning secondary to 
BENIGN PAROXYSMAL PERIPHERAL VERTIGO. For these symptoms, she 
arrived and was later transferred from ___ to 
___ for neurosurgery evaluation after incidental finding of 
medially projecting pseudoaneurysm of distal left extracranial 
ICA (measuring 9x9x6mm) on CTA Head/neck. Upon arrival, labs 
unremarkable, EKG sinus bradycardia (on home propranolol). 
Neurosurgery does not think surgery was appropriate at this 
time. She was symptomatic for dizziness/room spinning, and 
therefore admitted to Neurology. Initially there was concern for 
stroke given findings of direction changing nystagmus, however, 
MRI is negative for stroke. Exam was notable for ___ 
positive to left side, with torsional, upbeating nystagmus. 
Epley maneuver was performed and her symptoms improved. No 
evidence on exam of brainstem or cerebellar dysfunction. 

For her pseudoaneurysm, neurosurgery would like medical 
management, with ASA 325 mg qDaily and repeat CTA neck in 6 
months with Dr ___.

Transitional Issues:
- start ASA 325 mg
- follow up with Dr ___ Neurosurgery in 6 mo with repeat 
CTA neck
- she reports symptoms of restless leg syndrome, please check 
iron and supplement if necessary

As the patient requested to be discharged prior to being seen by 
an attending physician, she was discharged AGAINST MEDICAL 
ADVICE.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. LORazepam 0.5 mg PO BID:PRN anxiety 
4. RABEprazole 20 mg oral BID 
5. Colestid (colestipol) 2 gram oral BID 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Levothyroxine Sodium 112 mcg PO DAILY 
8. Propranolol 20 mg PO DAILY 
9. Spironolactone 50 mg PO DAILY 
10. Triamcinolone Acetonide 0.1% Cream 1 Appl TP ASDIR 
11. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*5 
2.  Colestid (colestipol) 2 gram oral BID  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Escitalopram Oxalate 20 mg PO DAILY  
5.  Levothyroxine Sodium 112 mcg PO DAILY  
6.  LORazepam 0.5 mg PO BID:PRN anxiety  
7.  Propranolol 20 mg PO DAILY  
8.  RABEprazole 20 mg oral BID  
9.  Simvastatin 20 mg PO QPM 
We DO NOT think your leg pain/restless motion was due to statin 
side effects.   
10.  Spironolactone 50 mg PO DAILY  
11.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP ASDIR  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
benign paroxysmal peripheral vertigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of room spinning, 
resulting from BENIGN PAROXYSMAL PERIPHERAL VERTIGO, a problem 
with your inner ear. Your inner ear provides input and 
contributes to control of balance, dizziness, and visual 
phenomena. Problems in your inner ear can lead to room spinning 
and dizziness exacerbated by position. 

Initially there was concern your symptoms could have been be 
caused by stroke as damage to parts of your brain from stroke 
can also lead to similar symptoms, however workup has showed you 
DID NOT have a stroke.

You were also incidentally found to have an aneurysm 
(outpouching in your blood vessel) in your neck, for which 
neurosurgery has recommended the following below. 

We made the following change to your medications.
START ASA 325 mg daily

Please take your other medications as prescribed.

Please follow up with neurosurgery and your primary care 
physician as listed below.

If you experience any of the symptoms below (concerning for 
stroke), please seek emergency medical attention by calling 
Emergency Medical Services (dialing 911). In particular, please 
pay attention to the sudden onset and persistence of these 
symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___